US08114868B2
Step 1: 3-[(S)-1-(4-Bromo-3-methyl-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from 1-chloro-5-methyl-3-phenyl-hex-5-en-3-ol and (S)-1-bromo-4-(1-isocyanato-ethyl)-2-methyl-benzene following a procedure analogous to that described in Step 1 of Example 96. Mass spectrum (ESI+): m/z=428/430 (Br) [M+H]+; 1H NMR (400 MHz, DMSO-d6) 1.40 (d, J=6.9 Hz, 3H), 1.55 (s, 3H), 2.13 (s, 3H) superimposed on 2.07-2.18 (m, 2H), 2.42-2.47 (m, 1H), 2.53 (broad s, 2H), 2.92-3.03 (m, 1H), 4.60 (hardly resolved m, 1H), 4.77 (hardly resolved m, 1H), 5.33 (q, J=6.9 Hz, 1H), 6.62 (dd, J=8.2 Hz, 2.0 Hz, 1H), 6.76 (hardly resolved d, 1H), 7.26-7.33 (m, 4H), 7.34-7.40 (m, 2H). The assignment of the stereogenic centers of the title compound is based on the comparison of the 1H NMR data with the data of the known analog 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl -[1,3]oxazinan-2-one.

reactant | 1-chloro-5-methyl-3-phenyl-hex-5-en-3-ol | ClCCC(CC(=C)C)(O)C1=CC=CC=C1 | C13H17ClO
reactant | (S)-1-bromo-4-(1-isocyanato-ethyl)-2-methyl-benzene | BrC1=C(C=C(C=C1)[C@H](C)N=C=O)C | C10H10BrNO
reactant | 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl -[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(=C)C)=O | C22H24BrNO2
product | 3-[(S)-1-(4-Bromo-3-methyl-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=C(C=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(=C)C)=O)C | C23H26BrNO2
